US08222416B2
A mixture of 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-methoxymethyl-1H-pyrrolo[2,3-b]pyridine (411 mg, 1.09) and 10% palladium on activated carbon (100 mg) in methanol (250 mL) was heated at 50° C. under hydrogen (50 psi) for 6 h. The mixture was cooled to room temperature before The catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo and purified using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) to afford 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-5-methoxymethyl-1H-pyrrolo[2,3-b]pyridine (80 mg, 19.4%) as a white solid: LC/MS m/e calcd for C23H28N2O3S [M+H]+ 413.56, observed 413.1; 1H NMR (400 MHz, CD3OD) δ ppm 8.30 (s, 1H), 8.20 (s, 1H), 7.89-7.93 (m, J=8.3 Hz, 2H), 7.55-7.66 (m, 2H), 6.67 (s, 1H), 4.61 (s, 2H), 4.37 (t, J=8.0 Hz, 1H), 3.33-3.48 (m, 3H), 3.08-3.13 (m, 3H), 2.25-2.33 (m, 1H), 2.12-2.20 (m, 1H), 1.61-1.88 (m, 5H), 1.45-1.56 (m, 2H), 1.18-1.31 (m, 2H).

reactant | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-methoxymethyl-1H-pyrrolo[2,3-b]pyridine | 411 mg | C1(CCCC1)C=C(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)COC)N1 | C23H26N2O3S
catalyst | palladium on activated carbon | 100 mg | [Pd] | Pd
solvent | methanol | 250 mL | CO | CH4O
product | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-5-methoxymethyl-1H-pyrrolo[2,3-b]pyridine | 80 mg, 19.4% | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)COC)N1 | C23H28N2O3S
